US05360909
7.58 g of potassium carbonate and 6.02 g of N-carboethoxyphthalimide were added to 180 ml of an aqueous solution of 6.01 g of 3-nitrotyramine hydrochloride and stirred for 15 hours at room temperature. 6N hydrochloric acid was gradually added to the reaction mixture at 0° C. so that the pH value of the mixture was adjusted to be 1 (one). The crystals thus precipitated out were removed by means of filtration and recrystallized from methanol to obtain 7.79 g (yield: 91%) of 4-[2-(phthalimido)ethyl]-2-nitrophenol as yellow crystals.

reactant | potassium carbonate | 7.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-carboethoxyphthalimide | 6.02 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | 3-nitrotyramine hydrochloride | 6.01 g | Cl.[N+](=O)([O-])C=1C=C(CCN)C=CC1O
reactant | hydrochloric acid | 6N | Cl | ClH
product | 4-[2-(phthalimido)ethyl]-2-nitrophenol | 7.79 g, yield: 91% | C1(C=2C(C(N1CCC1=CC(=C(C=C1)O)[N+](=O)[O-])=O)=CC=CC2)=O | C16H12N2O5
